US06048880
N,O-Di-tert-butoxycarbonyl-[2,5-Di(4-pyridyl)-4-methylthiophen-3-yl]methylhydroxylamine
To a stirred solution of 3-hydroxymethyl-2,5-di(4-pyridyl)-4-methylthiophene (0.282 g), triphenylphosphine(0.446 g), and N,O-di-(tert-butoxycarbonyl)hydroxylamine (0.224 g), in THF (20 mL) was added diethylazodicarboxylate (0.296 g) under nitrogen. After stirring for 23 hours, the reaction mixture was poured into water (50 mL) and the whole was extracted with CH2Cl2 (100 mL). The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-CH2Cl2 -MeOH (1:1:0.04). The resulting product was purified by column chromatography on silica(NH-silica gel, FUJI SILISIA CHEMICAL LTD. DM203 5)(ethyl acetate-CH2Cl2 --MeOH=1:1:0.04) to give the subtitle compound (0.17 g)

reactant | 3-hydroxymethyl-2,5-di(4-pyridyl)-4-methylthiophene | 0.282 g | OCC1=C(SC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | C16H14N2OS
reactant | triphenylphosphine | 0.446 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,O-di-(tert-butoxycarbonyl)hydroxylamine | 0.224 g | C(C)(C)(C)OC(=O)NOC(=O)OC(C)(C)C | C10H19NO5
reactant | diethylazodicarboxylate | 0.296 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | N,O-Di-tert-butoxycarbonyl-[2,5-Di(4-pyridyl)-4-methylthiophen-3-yl]methylhydroxylamine | 0.17 g | C(C)(C)(C)OC(=O)N(OC(=O)OC(C)(C)C)CC1=C(SC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | C26H31N3O5S
